US04058568
Preparation of 1,2,3,4,11,11,-hexachloro-1,4,4a, 9a-tetrahydro-1,4-methanoanthracene-9,10-dione.
Hexachlorocyclopentadiene (60 g.), 1,4-naphthoquinone (31.6 g.), and 30 ml. of toluene were mixed, heated to reflux temperature, and maintained at this temperature for 4 hours. After cooling to room temperature and extracting the excess hexachlorocyclopentadiene with Skelly "B" solvent, the mixture solidified slowly. This crude brown solid was recrystallized repeatedly from benzene/Skelly "B" mix-solvent (70/30) to yield white crystals, m.p. 116°-118° C.

reactant | Hexachlorocyclopentadiene | 60 g | ClC1(C(=C(C(=C1Cl)Cl)Cl)Cl)Cl | C5Cl6
reactant | 1,4-naphthoquinone | 31.6 g | C1(C=CC(C2=CC=CC=C12)=O)=O | C10H6O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1,2,3,4,11,11,-hexachloro-1,4,4a, 9a-tetrahydro-1,4-methanoanthracene-9,10-dione | ClC12C(=C(C(C3C(C4=CC=CC=C4C(C13)=O)=O)(C2(Cl)Cl)Cl)Cl)Cl | C15H6Cl6O2
